US07696231B2
b) Preparation of N-[4-(hydrazinocarbonyl)phenyl]hexanamide (Scheme 2, compound B)
To a suspension of methyl 4-(hexanoylamino)benzoate (583 mg, 2.34 mmol) in EtOH (8 mL) was added hydrazine hydrate (1.8 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with water (2×2 mL), and drying under vacuo at rt for 72 hrs gave 321 mg of the title compound (55%) as a white solid in 96.6% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-(hexanoylamino)benzoate | 2.34 mmol, 583 mg | C(CCCCC)(=O)NC1=CC=C(C(=O)OC)C=C1 | C14H19NO3
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | EtOH | 8 mL | CCO | C2H6O
product | N-[4-(hydrazinocarbonyl)phenyl]hexanamide | 321 mg, 55% | N(N)C(=O)C1=CC=C(C=C1)NC(CCCCC)=O | C13H19N3O2
